US06022894
Safrole oxide was prepared by stirring a solution of safrole (1.48 mL, 10 mmol) and m-chloroperoxybenzoic acid (2.70 g, 11 mmol) in methylene dichloride (25 mL) overnight. The reaction was quenched by pouring into water (50 mL). The aqueous was extracted with ether (3×25 mL). The organic layers were combined and washed with 10% aqueous sodium sulfate (2×25 mL), saturated aqueous sodium bicarbonate (3×25 mL), and brine (25 mL). The organic phase was dried over magnesium sulfate and the solvents were removed in vacuo. The resulting yellow oil was used without further purification.

reactant | safrole | 10 mmol, 1.48 mL | O1COC2=CC(CC=C)=CC=C12 | C10H10O2
reactant | m-chloroperoxybenzoic acid | 11 mmol, 2.70 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene dichloride | 25 mL | C(Cl)Cl | CH2Cl2
product | Safrole oxide | O1COC2=CC(CC3CO3)=CC=C12 | C10H10O3
